US06388127B1
4-(3,4-Dichloro-phenyl)-thiomorpholin-3-one
A 3-necked 3 L round bottomed flask equipped with overhead stirrer, temperature probe, and nitrogen inlet was charged with 100 grams (0.387 mol) of 2-(3,4-dichloro-phenylamino)-ethanethiol hydrochloride and 1 L of 2B-ethanol. To the resulting suspension was charged 76 grams (1.35 mol, 3.5 equivalents) of potassium hydroxide. The addition resulted in a temperature increase to approximately 35° C. This suspension was stirred at room temperature for 15-20 minutes, then cooled to 5-10° C. and treated with a solution of 59.1 grams (0.425 mol, 1.1 equivalents) of bromoacetic acid in 152 mL of 2B-ethanol. After stirring at room temperature for approximately 3 hours, the reaction mixture was concentrated under vacuum to a volume of approximately 225 mL. To this suspension was added 864 mL (9.15 mol, 23.6 equivalents) of acetic anhydride with no external cooling which resulted in a temperature increase to approximately 100° C. The flask was fitted with a condenser and receiving flask, and heated to 105-110° C. at which point distillate began to be collected. With continued heating, the internal temperature rose to 115° C., the reaction flask was refitted with a reflux condenser and the reaction mixture held at reflux for 1 hour. After allowing to cool to room temperature, the reaction mixture was poured into a 3-necked 5 L round bottomed flask containing 1700 mL of water and 864 mL of methylene chloride and stirred for 10-20 minutes at 20-25° C. The layers were separated and the organic layer was washed with 1 L of water then treated with 2 L of 10% aqueous sodium hydroxide which brought the pH to 9-10. The layers were separated, the organic layer was dried over magnesium sulfate, and concentrated atmospherically to a volume of approximately 200 mL. Displacement of the methylene chloride by isopropyl ether was accomplished by continuing to charge isopropyl ether and concentrating until an internal temperature of 68° C. was attained. The solution was then cooled to room temperature. Solids began to precipitate at 45° C. The resulting slurry was stirred at room temperature for two hours. The solids were collected by filtration, washed with isopropyl ether and vacuum dried at 45-50° C. to yield 57.5 grams (56.7% yield) of the title compound as a white solid, mp 81-83° C. 1H NMR (CDCl3) δ7.44 (d, J=8.7 Hz, 1H), 7.38 (d, J=2.5 Hz, 1H), 7.13 (d, J=2.5 Hz, 1H), 3.93 (t, J=11.5 Hz, 2H), 3.43 (s, 2H), 3.01 (t, J=11.5 Hz, 2H). 13C NMR (CDCl3) δ168.10, 143.04, 134.201, 132.25, 132.09, 129.42, 126.83, 53.32, 31.81, 27.86. HRMS (FAB) calcd for C10H9Cl2NOS: 261.9860; found: 261.9839.

reactant | 2-(3,4-dichloro-phenylamino)-ethanethiol hydrochloride | 0.387 mol, 100 grams | Cl.ClC=1C=C(C=CC1Cl)NCCS
reactant | potassium hydroxide | 1.35 mol, 76 grams, 3.5 equivalents | [OH-].[K+]
reactant | bromoacetic acid | 0.425 mol, 59.1 grams, 1.1 equivalents | BrCC(=O)O | C2H3BrO2
reactant | acetic anhydride | 9.15 mol, 864 mL, 23.6 equivalents | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(3,4-Dichloro-phenyl)-thiomorpholin-3-one | 57.5 grams, 56.7% yield | ClC=1C=C(C=CC1Cl)N1C(CSCC1)=O | C10H9Cl2NOS
